US07902252B2
2.78. Synthesis of 4-(3-chloro-4-fluorobenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid (48)
The title compound was synthesized from methyl 4-(3-chloro-4-fluorobenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate (0.034 g, 0.11 mmol) and lithium hydroxide (0.023 g, 0.55 mmol), according to General Procedure 7. A 1:1 mixture of methanol (MeOH) and THF (6 mL) was used. The resulting product was purified by column chromatography (Isco CombiFlash) eluting with a gradient of 0-100% EtOAc/heptane to afford the title compound. 17 mg. 1H NMR (400 MHz, METHANOL-d4) δ ppm 1.97-2.16 (m, 1H) 2.44-2.67 (m, 3H) 2.67-2.85 (m, 2H) 3.19-3.29 (m, 1H) 6.31 (s, 1H) 7.10-7.15 (m, 2H) 7.28 (d, J=7.52 Hz, 1H) 19F NMR δ ppm −122.88 (q, J=7.1 Hz); LCMS-MS (ESI−) 292.0 (M−H); HPLC (UV=98.1%), (ELSD=100%).

reactant | methyl 4-(3-chloro-4-fluorobenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | 0.11 mmol, 0.034 g | ClC=1C=C(CC2CCC=3NC(=CC32)C(=O)OC)C=CC1F | C16H15ClFNO2
reactant | lithium hydroxide | 0.55 mmol, 0.023 g | [OH-].[Li+]
reactant | methanol | CO | CH4O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | 4-(3-chloro-4-fluorobenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid | ClC=1C=C(CC2CCC=3NC(=CC32)C(=O)O)C=CC1F | C15H13ClFNO2
